US07122228B2
7-Fluoro-5-methyl-2-(4′-propylbicyclohexyl-4-yl)-indan-1-one
75 g (0.15 mol) of 1-(2-fluoro-6-iodo-4-methylphenyl)-2-(4′-propyl-bicyclohexyl-4-yl)-prop-2-en-1-ol, 50 ml of triethylamine, 400 mg of palladium(II) acetate (1.8 mmol) and 960 mg (3.7 mmol) of triphenylphosphine are dissolved in 200 ml of acetonitrile and refluxed overnight. The mixture is cooled down to room temperature and subjected to conventional workup.

reactant | 1-(2-fluoro-6-iodo-4-methylphenyl)-2-(4′-propyl-bicyclohexyl-4-yl)-prop-2-en-1-ol | 0.15 mol, 75 g | FC1=C(C(=CC(=C1)C)I)C(C(=C)C1CCC(CC1)C1CCC(CC1)CCC)O | C25H36FIO
reactant | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 3.7 mmol, 960 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
catalyst | palladium(II) acetate | 1.8 mmol, 400 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 7-Fluoro-5-methyl-2-(4′-propylbicyclohexyl-4-yl)-indan-1-one | FC=1C=C(C=C2CC(C(C12)=O)C1CCC(CC1)C1CCC(CC1)CCC)C | C25H35FO
